US04764521
C. Preparation of 6-(2-propyl-3,4-dichlorophenoxy)hexanoic acid
To a solution of 1.1 g. of 2-propyl-3,4-dichlorophenol in 30 ml. of tetrahydrofuran and 30 ml. of hexamethylphosphoramide were added 4.1 g. of 6bromohexanoic acid. To the solution were then added 1.3 g. of a 50% oil dispersion of sodium hydride. A catalytic amount of potassium iodide was added and the reaction was stirred under a nitrogen atmosphere at 60°-70° C. overnight. The reaction was cooled to room temperature and ethyl acetate and water were added. The solution was evaporated to dryness. Fresh ethyl acetate and water were added and the layers were separated. Fresh ethyl acetate was added to the aqueous layer and the aqueous layer was adjusted to pH 2. The layers were separated and the organic layer was washed with a saturated sodium chloride solution. The organic layer was then filtered through sodium sulfate and evaporated to dryness. The resulting residue was extracted with hexane and evaporated to dryness to afford 500 mg. of the title compound.

reactant | 2-propyl-3,4-dichlorophenol | C(CC)C1=C(C=CC(=C1Cl)Cl)O | C9H10Cl2O
reactant | 6bromohexanoic acid | BrCCCCCC(=O)O | C6H11BrO2
reactant | sodium hydride | [H-].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-(2-propyl-3,4-dichlorophenoxy)hexanoic acid | C(CC)C1=C(OCCCCCC(=O)O)C=CC(=C1Cl)Cl | C15H20Cl2O3
